* File: /home/wjin/dmtalen/sram/10TSRAM_PEX/10TSRAM.pex.netlist
* Created: Fri Aug 11 17:12:28 2017
* Program "Calibre xRC"
* Version "v2011.3_18.12"
* 
.include "/home/wjin/dmtalen/sram/10TSRAM_PEX/10TSRAM.pex.netlist.pex"
.subckt 10TSRAM  GND RBL RWL RWLB VDD WBL WBLB WWLB
* 
* RWL	RWL
* WWLB	WWLB
* RWLB	RWLB
* WBL	WBL
* GND	GND
* WBLB	WBLB
* RBL	RBL
* VDD	VDD
MM8 N_NET08_MM8_d N_RWL_MM8_g N_RBL_MM8_s N_GND_MM10_b NCH L=6e-08 W=1.2e-07 M=1
MM7 N_NET08_MM7_d N_QB_MM7_g N_GND_MM7_s N_GND_MM10_b NCH L=6e-08 W=1.2e-07 M=1
MM10 N_WBL_MM10_d N_WWLB_MM10_g N_Q_MM10_s N_GND_MM10_b NCH L=6e-08 W=2.4e-07
+ M=1
MM11 N_WBLB_MM11_d N_WWLB_MM11_g N_QB_MM11_s N_GND_MM10_b NCH L=6e-08 W=2.4e-07
+ M=1
MM1 N_Q_MM1_d N_QB_MM1_g N_GND_MM1_s N_GND_MM10_b NCH L=6e-08 W=1.2e-07 M=1
MM0 N_QB_MM0_d N_Q_MM0_g N_GND_MM0_s N_GND_MM10_b NCH L=6e-08 W=1.2e-07 M=1
MM9 N_NET08_MM9_d N_RWLB_MM9_g N_RBL_MM9_s N_VDD_MM5_b PCH L=6e-08 W=3.6e-07 M=1
MM6 N_NET08_MM6_d N_QB_MM6_g N_VDD_MM6_s N_VDD_MM5_b PCH L=6e-08 W=3.6e-07 M=1
MM5 N_Q_MM5_d N_QB_MM5_g N_VDD_MM5_s N_VDD_MM5_b PCH L=6e-08 W=3.6e-07 M=1
MM4 N_QB_MM4_d N_Q_MM4_g N_VDD_MM4_s N_VDD_MM5_b PCH L=6e-08 W=3.6e-07 M=1
*
.include "/home/wjin/dmtalen/sram/10TSRAM_PEX/10TSRAM.pex.netlist.10TSRAM.pxi"
*
.ends
*
*
