* File: /home/wjin/dmtalen/sram/10TSRAM_PEX/10TSRAM.pex.netlist.pex
* Created: Fri Aug 11 17:12:28 2017
* Program "Calibre xRC"
* Version "v2011.3_18.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_10TSRAM%VDD 3 4 5 7 11 12 15 19 21 25 29 30 31 32 33 39 40 43 49
c145 49 0 0.033145f
c146 31 0 1.76226e-19
c147 29 0 1.74548e-19
c148 25 0 7.37453e-19
c149 21 0 0.0217264f
c150 19 0 1.28864e-19
c151 15 0 0.00660721f
c152 11 0 0.00414974f
c153 7 0 3.93492e-20
c154 5 0 0.00381245f
c155 4 0 0.0053726f
c156 3 0 0.0134606f
r157 47 49 0.256628
r158 45 47 0.0702671
r159 43 49 13
r160 36 38 6.45096
r161 36 45 13
r162 33 36 3.81682
r163 32 43 8.45439
r164 31 43 0.566337
r165 31 32 9.22557
r166 30 43 8.45439
r167 29 38 16.0777
r168 29 30 17.3793
r169 25 47 0.75
r170 23 25 0.75
r171 21 23 0.830276
r172 18 25 0.158499
r173 18 19 0.00875435
r174 14 19 0.0942455
r175 14 15 1.16776
r176 11 19 0.0942455
r177 11 12 0.056351
r178 7 40 4.49464
r179 7 39 4.49464
r180 5 7 13
r181 4 5 0.187775
r182 3 45 0.124838
r183 2 4 0.103705
r184 2 3 0.446487
.ends

.subckt PM_10TSRAM%QB 25 26 27 29 33 39 40 57 60 63 65 69 72 75 76 80 81 82 84
+ 87 88 90 94 99 105 111 113
c266 113 0 0.00292749f
c267 111 0 0.00165022f
c268 105 0 0.00379304f
c269 99 0 0.00388484f
c270 94 0 0.00360297f
c271 90 0 1.89299e-19
c272 84 0 1.54271e-19
c273 81 0 0.00960944f
c274 80 0 0.0191177f
c275 75 0 0.00431159f
c276 74 0 0.00304235f
c277 72 0 0.00365189f
c278 69 0 0.0099359f
c279 65 0 0.0162768f
c280 63 0 2.25258e-20
c281 60 0 0.0140435f
c282 57 0 1.64024e-19
c283 40 0 0.00131863f
c284 39 0 0.00154729f
c285 33 0 0.00231665f
c286 29 0 0.00254988f
c287 27 0 4.19546e-19
c288 26 0 0.00700559f
c289 25 0 0.00163019f
r290 105 111 1.5
r291 103 105 0.0138453
r292 101 113 0.0148533
r293 99 101 1.5
r294 94 97 0.00230504
r295 94 108 1.5
r296 90 97 13
r297 88 90 4.49464
r298 86 87 8.15867
r299 84 86 8.018
r300 84 103 26
r301 82 84 14.0667
r302 76 86 1.4189
r303 76 87 9.4369
r304 74 78 4.17273
r305 74 75 10.7888
r306 72 78 4.17273
r307 69 81 40.8
r308 65 75 57.375
r309 60 72 10.7888
r310 60 63 82.875
r311 57 80 113.475
r312 45 113 1.5
r313 42 111 0.545298
r314 42 108 0.384187
r315 40 42 1.5
r316 40 45 0.600243
r317 39 103 0.23537
r318 37 99 0.0333753
r319 35 81 11.7411
r320 35 80 12.1911
r321 33 35 20
r322 32 39 0.0964894
r323 32 33 0.547884
r324 29 78 20
r325 27 29 0.0862437
r326 26 27 0.0979438
r327 25 37 0.0532644
r328 25 26 0.353567
.ends

.subckt PM_10TSRAM%NET08 1 6 8 9 11 15 16 18 19 20
c60 20 0 2.44321e-19
c61 11 0 4.47595e-20
c62 9 0 0.00258225f
c63 6 0 0.0074824f
r64 19 20 4.49464
r65 18 20 4.49464
r66 11 16 14.0667
r67 11 15 14.0667
r68 9 11 26
r69 9 13 0.0251482
r70 6 13 0.0341054
r71 6 8 0.830685
r72 3 20 13
r73 1 8 0.101157
r74 1 3 0.142602
.ends

.subckt PM_10TSRAM%Q 15 18 20 25 27 28 32 38 41 43 46 48 52 53 54 58 60 66
c144 66 0 0.00501317f
c145 60 0 4.77121e-19
c146 53 0 2.54633e-19
c147 48 0 0.00982919f
c148 46 0 2.48893e-19
c149 43 0 0.0151663f
c150 41 0 4.59937e-19
c151 38 0 0.0127137f
c152 32 0 2.5558e-19
c153 28 0 0.00230811f
c154 27 0 1.75426e-20
c155 25 0 0.00154219f
c156 20 0 1.87746e-19
c157 18 0 0.00660936f
c158 15 0 0.00237419f
r159 63 65 0.00507316
r160 60 63 13
r161 58 60 4.49464
r162 56 66 26
r163 53 56 8.15867
r164 53 54 8.018
r165 52 56 14.0667
r166 48 50 5.56364
r167 46 53 1.4189
r168 46 54 9.4369
r169 42 48 5.37463
r170 42 43 86.7
r171 38 48 5.37463
r172 38 41 68.85
r173 30 66 0.0204567
r174 28 30 1.5
r175 27 28 0.0810146
r176 25 27 0.0643496
r177 25 32 0.485
r178 22 65 0.75
r179 20 32 0.0702334
r180 20 22 0.27569
r181 18 65 0.252025
r182 18 19 0.282874
r183 15 50 20
r184 13 19 0.0246847
r185 13 15 0.512183
.ends

.subckt PM_10TSRAM%RBL 2 8 11 13 15 18 20 27
c66 27 0 0.0260198f
c67 20 0 2.09661e-20
c68 15 0 3.69599e-19
c69 11 0 2.95867e-19
c70 8 0 0.00462148f
c71 6 0 0.00490234f
c72 2 0 0.00755931f
r73 24 27 0.946108
r74 24 29 0.75
r75 20 24 13
r76 18 20 4.49464
r77 15 27 26
r78 13 15 14.0667
r79 11 12 0.0104897
r80 8 29 0.205198
r81 6 8 1.5
r82 5 11 0.043043
r83 5 6 0.0334779
r84 2 12 2.75743
.ends

.subckt PM_10TSRAM%WBLB 1 8 9 12 14 20 23
c90 23 0 0.00430024f
c91 20 0 0.00322034f
c92 14 0 1.73588e-19
c93 1 0 0.00944485f
r94 20 23 1.5
r95 17 20 0.0285285
r96 14 17 26
r97 12 14 7.385
r98 8 9 0.980689
r99 6 23 0.138428
r100 4 6 1.5
r101 4 8 0.064519
r102 1 4 1.34199
.ends

.subckt PM_10TSRAM%GND 3 4 6 7 13 25 26 28 33 37 40 44 47 49
c136 47 0 0.0200513f
c137 44 0 0.0452998f
c138 40 0 0.00703372f
c139 37 0 0.0199843f
c140 13 0 0.00983894f
c141 7 0 0.0102015f
c142 6 0 1.69389e-19
c143 4 0 0.00838369f
c144 3 0 1.15902e-20
r145 47 49 1.00889
r146 44 47 0.891262
r147 40 47 0.5
r148 37 40 0.5
r149 16 37 0.49782
r150 14 37 0.291407
r151 13 14 0.0536215
r152 12 13 0.227651
r153 10 33 12.9446
r154 8 10 13
r155 8 12 0.0348228
r156 7 16 0.103705
r157 6 26 14.0667
r158 6 25 14.0667
r159 5 7 0.218745
r160 5 6 26
r161 4 12 0.0100005
r162 3 28 14.0667
r163 2 4 0.23377
r164 2 3 26
.ends

.subckt PM_10TSRAM%WBL 1 3 5 8 10 12 18
c55 18 0 0.00931463f
c56 12 0 1.37562e-19
c57 3 0 0.0139941f
c58 1 0 0.00113844f
r59 15 18 0.0139909
r60 12 15 26
r61 10 12 7.03333
r62 5 8 2.30758
r63 3 18 1.5
r64 1 3 1.5
r65 1 5 0.130171
.ends

.subckt PM_10TSRAM%RWLB 9 12 17 24
c55 24 0 0.0167584f
c56 17 0 0.0147022f
c57 12 0 0.00726036f
c58 9 0 0.0181394f
r59 21 24 13.3405
r60 21 27 20
r61 17 24 77.775
r62 9 27 0.0577806
r63 7 9 1.5
r64 7 12 0.437762
.ends

.subckt PM_10TSRAM%WWLB 20 22 23 27 28 30 32 33 35 43 47 50 51 60 63 67
c188 67 0 0.00383546f
c189 63 0 0.00896928f
c190 60 0 0.0111947f
c191 51 0 0.00352438f
c192 50 0 0.00740631f
c193 47 0 0.0137584f
c194 43 0 0.0153194f
c195 35 0 0.0118915f
c196 33 0 3.636e-19
c197 32 0 0.00458077f
c198 30 0 0.00674729f
c199 28 0 0.00371136f
c200 27 0 0.00209469f
c201 24 0 0.00689387f
c202 23 0 0.0105503f
c203 22 0 0.0074578f
c204 20 0 0.0110604f
r205 57 60 14.6599
r206 57 67 20
r207 53 63 20
r208 50 53 4.17273
r209 50 51 9.89203
r210 47 60 43.35
r211 43 51 43.35
r212 35 63 0.00457729
r213 33 35 1.5
r214 30 67 0.00420046
r215 28 30 1.5
r216 27 28 0.971653
r217 23 33 0.0875959
r218 23 24 0.656632
r219 22 27 0.0787123
r220 21 32 0.0596539
r221 21 22 0.282812
r222 18 32 0.0596539
r223 18 20 0.218214
r224 17 24 0.0787123
r225 17 20 0.104363
.ends

.subckt PM_10TSRAM%RWL 8 10 12 17 21 23
c57 23 0 0.0135633f
c58 21 0 0.01767f
c59 12 0 0.0145759f
c60 10 0 0.00800906f
r61 21 23 13.3405
r62 21 27 20
r63 17 23 47.175
r64 12 27 0.349773
r65 10 12 1.5
r66 8 10 0.131124
.ends

